US06943183B2
N-(2-Hydroxypropyl)-3-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzamide (Compound 258)
Using the method in Example 172, 3-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid (50 mg, 0.10 mmol, 0.20M in DMF) and 1-amino-2-propanol (23 mg, 0.30 mmol, 0.6M in DMF) were combined to give 46 mg of the desired compound: Low resolution mass spectrum (LC-MS, APCI) m/z 556 [M+H]+.

reactant | 3-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzoic acid | 0.10 mmol, 0.20M, 50 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CSC=1C=C(C(=O)O)C=CC1 | C29H26N2O4S
reactant | 1-amino-2-propanol | 0.30 mmol, 0.6M, 23 mg | NCC(C)O | C3H9NO
product | N-(2-Hydroxypropyl)-3-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfanyl}benzamide | 46 mg | OC(CNC(C1=CC(=CC=C1)SCC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O)C | C32H33N3O4S
